US07414045B2
To a solution of tert-butyl benzyloxycarbamate in anhydrous dimethylformamide were added 5 mol % of sodium iodide and portionwise 1.36 eq. of sodium hydride (60% dispersion in mineral oil). The mixture was stirred at room temperature for 15 min. before 1.05 eq. of 4-chlorovaleronitrile were added. The mixture was heated to 85° C. and stirred for 3.5 h. After cooling to room temperature the mixture was quenched with water and extracted with diethyl ether. The combined organic phases were concentrated and washed with half saturated aq. sodium thiosulfate, water and brine. The organic phase was dried over sodium sulfate, filtered and concentrated under reduced pressure. The oily residue was washed with petroleum ether and dried under high vacuum to yield Tert-butyl benzyloxy(4-cyanobutyl)carbamate as a light yellow oil.

reactant | tert-butyl benzyloxycarbamate | C(C1=CC=CC=C1)ONC(OC(C)(C)C)=O | C12H17NO3
reactant | sodium iodide | [I-].[Na+]
reactant | sodium hydride | 1.36 eq. | [H-].[Na+]
reactant | 4-chlorovaleronitrile | 1.05 eq. | ClC(CCC#N)C | C5H8ClN
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Tert-butyl benzyloxy(4-cyanobutyl)carbamate | C(C1=CC=CC=C1)ON(C(OC(C)(C)C)=O)CCCCC#N | C17H24N2O3
